US06605617B2
4-Amino-3-(3H-imidazo[4,5-b]pyridin-2-yl)quinolin-2(1H)-one
LiHMDS (3.0 eq) was added to ethyl 3H-imidazo[4,5-b]pyridin-2-ylacetate (1.0 eq) in THF at −78° C. After 20 minutes, a solution of 2-aminobenzenecarbonitrile (1.1 eq) in THF was added. The resulting mixture was allowed to warm to room temperature, stirred for 3 hours, and then refluxed overnight. The mixture was cooled to 0° C. and quenched with an aqueous saturated NH4Cl solution. A precipitate formed, was filtered off, and was washed repeatedly with ether to yield the desired compound as a light brown solid. LC/MS m/z 278.2 (MH+), Rf 1.82 minutes.

reactant | LiHMDS | 3.0 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 3H-imidazo[4,5-b]pyridin-2-ylacetate | 1.0 eq | N1=C(NC2=NC=CC=C21)CC(=O)OCC | C10H11N3O2
reactant | 2-aminobenzenecarbonitrile | 1.1 eq | NC1=C(C=CC=C1)C#N | C7H6N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-3-(3H-imidazo[4,5-b]pyridin-2-yl)quinolin-2(1H)-one | NC1=C(C(NC2=CC=CC=C12)=O)C1=NC=2C(=NC=CC2)N1 | C15H11N5O
